US04430339
(a) 2-[4-(Cyclohexyloxy)-butyl]-oxirane-2-carboxylic acid ethyl ester
2.4 g of the title compound, in the form of a colourless oil, which is purified by chromatography on silica gel (migrating agent: 90:10 petroleum ether/ethyl acetate), are obtained by the procedure described in Example 1a) from 4.9 g of 6-cyclohexyloxy-2-methylenehexanoic acid ethyl ester and 7 g of m-chloroperbenzoic acid in 50 ml of methylene chloride.

reactant | 6-cyclohexyloxy-2-methylenehexanoic acid ethyl ester | 4.9 g | C(C)OC(C(CCCCOC1CCCCC1)=C)=O | C15H26O3
reactant | m-chloroperbenzoic acid | 7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(Cyclohexyloxy)-butyl]-oxirane-2-carboxylic acid ethyl ester | C(C)OC(=O)C1(OC1)CCCCOC1CCCCC1 | C15H26O4
